US05475109
4-[N-Benzyl-4-(4-Chlorobenzyl)-piperidin-4-yl]-2,4-dioxo-butanoic acid Hydrochloride
A solution of N-Benzyl-4-Acetyl-4-(4-Chlorobenzyl)piperidine (600 mg, 1.75 mmol) and dimethyl oxalate (310 mg, 2.63 mmol) in dimethoxyethane (20 mL) was treated with sodium hydride (105 mg of a 60% dispersion in mineral oil, 2.63 mmol) and heated to reflux for 3 hours. The reaction was then cooled to room temperature, poured into 1N aqueous HCl (200 mL) and extracted with ethyl ether (1×50 mL). The ether extract was discarded. The pH of the aqueous phase was adjusted to pH 8 and extracted with ethyl acetate (3×200 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The crude ester thus obtained was dissolved in THF (5 mL) and 3N HCl (20 mL) and heated to reflux for 1 hour. The reaction was then cooled to room temperature, and concentrated at reduced pressure. The residue was triturated with tetrahydrofuran and the solid collected by filtration and crystallized from isopropanol to give 200 mg of the title compound. mp. 189°-181° C.

reactant | N-Benzyl-4-Acetyl-4-(4-Chlorobenzyl)piperidine | 1.75 mmol, 600 mg | C(C1=CC=CC=C1)N1CCC(CC1)(CC1=CC=C(C=C1)Cl)C(C)=O | C21H24ClNO
reactant | dimethyl oxalate | 2.63 mmol, 310 mg | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1N, 200 mL | Cl | ClH
reactant | HCl | 3N, 20 mL | Cl | ClH
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[N-Benzyl-4-(4-Chlorobenzyl)-piperidin-4-yl]-2,4-dioxo-butanoic acid Hydrochloride | 200 mg | Cl.C(C1=CC=CC=C1)N1CCC(CC1)(CC1=CC=C(C=C1)Cl)C(CC(C(=O)O)=O)=O | InChI=1S/C23H24ClNO4.ClH/c24-19-8-6-17(7-9-19)15-23(21(27)14-20(26)22(28)29)10-12-25(13-11-23)16-18-4-2-1-3-5-18;/h1-9H,10-16H2,(H,28,29);1H
